US05093432
400 g butoxyethoxyethanol (2.5 mol).
A mixture of 400 g triethylene glycol monoethyl ether (2.2 mol), 48 g paraformaldehyde (1.6 mol), 150 ml toluene and 10 g of an acid ion exchange resin was refluxed for 6 hours in a 1 liter flask equipped with a water separator and reflux condenser. Filtration of the product followed by distillation gave a quantitative yield of the desired product.

reactant | triethylene glycol monoethyl ether | 2.2 mol, 400 g | C(C)OCCOCCOCCO | C8H18O4
reactant | paraformaldehyde | 1.6 mol, 48 g | C=O | CH2O
reactant | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | butoxyethoxyethanol | quantitative yield | C(CCC)OCCOC(C)O | C8H18O3
